US07799799B2
(2-butylindolizin-3-yl){4-[3-(dipropylamino)propyl]phenyl}methanone hydrochloride (compound 7)
A mixture of 9 g (56 mmoles) of 2-butyl-indolizine and 12.4 g (57 mmoles) of 4-(3-chloropropyl)benzoyl chloride was heated to 50° C. for 18 hours. It was taken up in water, extracted with dichloromethane, washed with sodium carbonate solution, the organic phase was dried over sodium sulphate and concentrated to dryness. Next, it was purified by flash chromatography over silica (eluent: methylene chloride-heptane, 80/20). In this manner, 14 g of the desired compound was obtained in the form of an oil.

reactant | 2-butyl-indolizine | 56 mmoles, 9 g | C(CCC)C=1C=C2C=CC=CN2C1 | C12H15N
reactant | 4-(3-chloropropyl)benzoyl chloride | 57 mmoles, 12.4 g | ClCCCC1=CC=C(C(=O)Cl)C=C1 | C10H10Cl2O
solvent | water | O | H2O
product | (2-butylindolizin-3-yl){4-[3-(dipropylamino)propyl]phenyl}methanone hydrochloride | 14 g, Yield: 77% | Cl.C(CCC)C=1C=C2C=CC=CN2C1C(=O)C1=CC=C(C=C1)CCCN(CCC)CCC | InChI=1S/C28H38N2O.ClH/c1-4-7-12-25-22-26-13-8-9-21-30(26)27(25)28(31)24-16-14-23(15-17-24)11-10-20-29(18-5-2)19-6-3;/h8-9,13-17,21-22H,4-7,10-12,18-20H2,1-3H3;1H
